US06057315
2-Propyl-1,3,5-trimethoxybenzene
To the stirred solution of 1,3,5-trimethoxybenzene (10.0 g, 59.4 mmol) in 150 mL of dry THF at 0° C. in nitrogen atmosphere was added 23.7 mL (59.3 mmol) of 2.5 M n-BuLi in hexane dropwise via syringe. The resulting solution was stirred at room temperature for 4 hr. The mixture was cooled to -20° C. and 1-iodopropane (6.09 mL, 62.5 mmol) was added dropwise via syringe in 10 min. After being stirred at room temperature for 14 hr and refluxed for 4 hr, the mixture was quenched with 200 mL of water, concentrated in vacuo to remove THF and extracted with ether. The organic layer was washed with water, dried (MgSO4) and concentrated. The crude product was washed with hexane to give 11.07 g of the title compound: mp 48.5-49.5° C.; 1H NMR (CDCl3): 6.13 (2 H, s), 3.80 (3 H, s), 3.79 (6 H, s), 2.52 (2 h, m), 1.44 (2 H, sex, J=7.5 Hz), 0.91 (3 H, t, J=7.5 Hz).

reactant | 1,3,5-trimethoxybenzene | 59.4 mmol, 10.0 g | COC1=CC(=CC(=C1)OC)OC | C9H12O3
reactant | n-BuLi | 59.3 mmol, 2.5 M, 23.7 mL | [Li]CCCC
reactant | 1-iodopropane | 62.5 mmol, 6.09 mL | ICCC | C3H7I
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-Propyl-1,3,5-trimethoxybenzene | 11.07 g | C(CC)C1=C(C=C(C=C1OC)OC)OC | C12H18O3
